US05994368
A mixture of 8-[3-[N-[2-(4-aminophenylthio)-acetylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline (56 mg) triethylamine (15 mg), and acetic anhydride (15 mg) in dichloromethane (2 ml) was stirred for 4 hours at ambient temperature. The resulting precipitates were collected by filtration to give 8-[3-[N-[2-(4-acetamidophenylthio)acetylglycyl]-N-methylamino)-2,6-dichlorobenzyloxy]-2-methylquinoline (30 mg) as a colorless crystal.

reactant | 8-[3-[N-[2-(4-aminophenylthio)-acetylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline | 56 mg | NC1=CC=C(C=C1)SCC(=O)NCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | C28H26Cl2N4O3S
reactant | acetic anhydride | 15 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 8-[3-[N-[2-(4-acetamidophenylthio)acetylglycyl]-N-methylamino)-2,6-dichlorobenzyloxy]-2-methylquinoline | 30 mg | C(C)(=O)NC1=CC=C(C=C1)SCC(=O)NCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | C30H28Cl2N4O4S
